US06479536B1
5,6-Dichloro-(2,2,4,6,7-pentamethyl-3-phenyl-2,3-dihydro-1-benzofuran-5-yl)-1H-isoindole-1,3(2H)-dione
To a solution of 2,2,4,6,7-pentamethyl-3-phenyl-2,3-dihydro-1-benzofuran-5-amine (1.00 g, 3.56 mmol) in tetrahydrofuran (30 ml) was added under an argon atmosphere 4,5-dichlorophthalic anhydride (850.6 mg, 3.92 mmol) and the mixture was refluxed with heating for 13 hours. The reaction mixture was cooled down to room temperature and then 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (WSC) hydrochloride (760.0 mg, 3.96 mmol) and 1-hydroxy-1H-benzotriazole (HOBT) monohydrate (602.6 mg, 3.93 mmol) were added to the mixture. The resulting mixture was refluxed with heating for 3 hours and then cooled down to room temperature. Water and an 8 N aqueous solution of sodium hydroxide were added into the reaction mixture and the product was extracted twice with ethyl acetate. The combined extracts were washed with an aqueous, saturated solution of sodium hydrogen carbonate, dried on magnesium sulfate, filtered, and then concentrated under reduced pressure. The residue was crystallized from ethyl acetate to obtain 1.16 g (68% yield) of the title compound. Melting point: 178-181° C.

reactant | 2,2,4,6,7-pentamethyl-3-phenyl-2,3-dihydro-1-benzofuran-5-amine | 3.56 mmol, 1.00 g | CC1(OC2=C(C1C1=CC=CC=C1)C(=C(C(=C2C)C)N)C)C | C19H23NO
reactant | 4,5-dichlorophthalic anhydride | 3.92 mmol, 850.6 mg | ClC=1C=C2C(C(=O)OC2=O)=CC1Cl | C8H2Cl2O3
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 3.96 mmol, 760.0 mg | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | 1-hydroxy-1H-benzotriazole | 3.93 mmol, 602.6 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | 5,6-Dichloro-(2,2,4,6,7-pentamethyl-3-phenyl-2,3-dihydro-1-benzofuran-5-yl)-1H-isoindole-1,3(2H)-dione | 1.16 g, 68% yield | ClC=1C=C2C(N(C(C2=CC1Cl)=O)C=1C(=C(C2=C(C(C(O2)(C)C)C2=CC=CC=C2)C1C)C)C)=O | C27H23Cl2NO3
